US09233979B2
(R)-1-(3-(Ethylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (187 mg, 0.330 mmol) and triethylsilane (0.080 mL, 0.501 mmol) were stirred in TFA (2 mL) at room temperature for 30 min. The solvent was removed in vacuo, saturated NaHCO3 was added, and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over Na2SO4, filtered through Celite, and concentrated in vacuo. Purification of the residue by flash chromatography (0-10% MeOH-EtOAc) gave (R)-1-(3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C17H20N6O [M+1]+ 325. found 325. 1H NMR (500 MHz, DMSO-d6) δ 11.45 (s, 1H), 8.86 (s, 1H), 8.57 (s, 1H), 8.09 (br s, 1H), 7.34-7.31 (m, 4H), 7.25-7.20 (m, 2H), 6.21 (t, J=5.5 Hz, 1H), 4.89-4.83 (m, 1H), 3.25-3.19 (m, 2H), 1.39 (d, J=7.0 Hz, 3H), 1.18 (t, J=7.0 Hz, 3H). Examples 3-38 (Table 1) were prepared according to Scheme 1 following a similar procedure to that described for Example 1 using the appropriate pyrazolopyridine (Intermediate 1C), the appropriate aryl chlorides, and commercial or synthesized ureas (prepared using the same procedure as intermediates 20C-24C), which can be achieved by those of ordinary skill in the art of organic synthesis. The compounds of examples 6, 8, 9, 11, 12, 16, 17, 18, 21, 25, 27, 28, 30, and 38 were obtained as the trifluoroacetic acid salt.

reactant | (R)-1-(3-(Ethylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.330 mmol, 187 mg | C(C)NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H34N6O
reactant | triethylsilane | 0.501 mmol, 0.080 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-1-(3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | C(C)NC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C17H20N6O
